US20010012901A1
A mixture of 4-(2,3,5-trimethylphenoxy)butyric acid (4.82 mg) dimethylaminopyridine (DMAP, 0.26 g), 2,2,2-trichloroethanol (2.50 ml), 1-(3-dimethylaminopropyl)-ethylcarbodiimide hydrochloride (4.57 g) and CH2Cl2 was stirred at room temperature overnight. The reaction mixture was poured into a mixture of AcOEt and water. The separated AcOEt was washed with dil. HCl, sat. NaHCO3, water, and brine, and dried over MgSO4, and then evaporated to give 2,2,2-trichloroethyl 4-(2,3,5-trimethylphenoxy)butyrate (8.11 g) as an oil compound.

reactant | 4-(2,3,5-trimethylphenoxy)butyric acid | 4.82 mg | CC1=C(OCCCC(=O)O)C=C(C=C1C)C | C13H18O3
reactant | 2,2,2-trichloroethanol | 2.50 ml | ClC(CO)(Cl)Cl | C2H3Cl3O
reactant | 1-(3-dimethylaminopropyl)-ethylcarbodiimide hydrochloride | 4.57 g | Cl.CN(CCCC(C)N=C=N)C
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 2,2,2-trichloroethyl 4-(2,3,5-trimethylphenoxy)butyrate | 8.11 g | CC1=C(OCCCC(=O)OCC(Cl)(Cl)Cl)C=C(C=C1C)C | C15H19Cl3O3
